US04707499
α-ethyl-α-phenyloxiranepropanenitrile
The title compound was prepared by the methods described in Examples 2 and 3 except that 2-phenylbutyronitrile was used instead of methyl 2-phenylbutyrate and complete epoxidation required adding a second quantity of m-chloroperbenzoic acid. The resultant light-yellow oil was used in subsequent reactions without furher purification.

reactant | 2-phenylbutyronitrile | C1(=CC=CC=C1)C(C#N)CC | C10H11N
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | α-ethyl-α-phenyloxiranepropanenitrile | C(C)C(C#N)(CC1OC1)C1=CC=CC=C1 | C13H15NO
